US07820672B2
c) 4-Amino-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester
5-Chloro-2-methyl-4-nitro-indole-1-carboxylic acid methyl ester (2.1 g, 7.81 mmol) is dissolved in ethanol (40 ml) and glacial acetic acid (40 ml). Iron powder (1.74 g, 31.26 mmol, activated previously with H2SO4 conc and then washed with water) is added, and the reaction mixture is heated to 85° C. for 90 minutes. The reaction mixture is poured into water and stirred at RT for 30 minutes, after which a slightly brownish colored precipitate forms which is filtered off. After washing with water and drying, the title compound is obtained in pure form. 1H NMR (DMSO, 400 MHz, 120° C.) δ 2.51 (s, 3H), 4.05 (s, 3H), 5.0-5.2 (br s, 2H), 6.66 (s, 1H), 7.05 (d, J=9 Hz, 1H), 7.31 (d, J=9 Hz, 1H); ES-MS: 238 [M+H]+.

reactant | 5-Chloro-2-methyl-4-nitro-indole-1-carboxylic acid methyl ester | 7.81 mmol, 2.1 g | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)[N+](=O)[O-])C | C11H9ClN2O4
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Iron | [Fe] | Fe
product | 4-Amino-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)N)C | C11H11ClN2O2
